US05053409
Synthesis of 2-[4-(2,3,4-trimethoxybenzyl)-1-piperazinyl]- 5-n-propylbenzenesulfonic acid (Compound No. 69)
Into a solution of 0.10 g of sodium cyanoborohydride dissolved in 2 ml of a methanol solution was added 0.10 g of zinc chloride, and the mixture was stirred for 5 minutes. Then, 0.40 g of 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid and 0.58 g of 2,3,4-trimethoxybenzaldehyde were added to carry out the reaction at room temperature for 2 hours. The organic layer was extracted by addition of an aqueous sodium chloride and tetrahydrofuran, and after evaporation of tetrahydrofuran under reduced pressure from the extract, the residue was purified by silicagel column chromatography (eluant:chloroform: methanol:acetic acid=500:100:6) to give 0.39 g (yield: 58.5%) of the above title product as a glassy solid.

reactant | sodium cyanoborohydride | 0.10 g | C(#N)[BH3-].[Na+]
reactant | 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid | 0.40 g | N1(CCNCC1)C1=C(C=C(C=C1)CCC)S(=O)(=O)O | C13H20N2O3S
reactant | 2,3,4-trimethoxybenzaldehyde | 0.58 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
solvent | methanol | 2 ml | CO | CH4O
catalyst | zinc chloride | 0.10 g | [Cl-].[Zn+2].[Cl-]
product | 2-[4-(2,3,4-trimethoxybenzyl)-1-piperazinyl]- 5-n-propylbenzenesulfonic acid | 0.39 g, yield: 58.5% | COC1=C(CN2CCN(CC2)C2=C(C=C(C=C2)CCC)S(=O)(=O)O)C=CC(=C1OC)OC | C23H32N2O6S
